US09334286B2
Preparation 52: 3-Chloro-N-methylisoquinoline-6-carboxamide
HATU (17.6 mg, 0.046 mmol) was added to a solution of 3-chloroisoquinoline-6-carboxylic acid (Preparation 54, 8 mg, 0.039 mmol), DIPEA (54 uL, 0.31 mmol) and methanamine hydrochloride (15.6 mg, 0.231 mmol) in DMF (4 mL) and the reaction was stirred for 18 hours. The reaction was partitioned between EtOAc and brine, the separated organic phase was washed with saturated NaHCO3 solution, citric acid and brine, dried over Na2SO4 and concentrated in vacuo to afford the title compound as yellow oil (5.2 mg, 61%).

reactant | HATU | 0.046 mmol, 17.6 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-chloroisoquinoline-6-carboxylic acid | 0.039 mmol, 8 mg | ClC=1N=CC2=CC=C(C=C2C1)C(=O)O | C10H6ClNO2
reactant | DIPEA | 0.31 mmol, 54 uL | CCN(C(C)C)C(C)C | C8H19N
reactant | methanamine hydrochloride | 0.231 mmol, 15.6 mg | Cl.CN
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 3-Chloro-N-methylisoquinoline-6-carboxamide | 5.2 mg, 61% | ClC=1N=CC2=CC=C(C=C2C1)C(=O)NC | C11H9ClN2O
